US07271262B2
N-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-2-chloro-4-fluoro-benzenesulfonamide
2-Chloro-4-fluorobenzenesulphonyl chloride (85.7 mg, 0.37 mmol) was added to a solution of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone (80 mg, 0.25 mmol) in pyridine (3 mL). The resulting solution was heated to 120° C. for 3 h. The reaction was quenched with water and concentrated. The residue was dissolved in EtOAc and washed with 1N NaOH (1×) and water (1×). The organic layer was dried over Na2SO4 and concentrated. Purification by flash column chromatography (CH2Cl2/MeOH 98:2) afforded the title compound as a white solid (32 mg, 25%). MS: 514.1/516.1 (MH+); HPLC Rf: 6.12 min. (HPLC method 4).

reactant | 2-Chloro-4-fluorobenzenesulphonyl chloride | 0.37 mmol, 85.7 mg | ClC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | 0.25 mmol, 80 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-2-chloro-4-fluoro-benzenesulfonamide | 32 mg, 25% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)NS(=O)(=O)C2=C(C=C(C=C2)F)Cl)C2CCCC2 | C24H21ClFN5O3S
